USH0001759
Step (a) 4-ethyl-2-(2-methoxyethoxy)phenylmethanol
This compound was hydrogenated in the manner of Step (c) of Example 1, using 7.5 grams (0.036 mole) of 4-ethyl-2-(2-methoxyethoxy)benzaldehyde in 200 mL of ethanol in the presence of 10% palladium on carbon. The yield of the subject compound was 1.8 grams, following purification by column chromatography on silica gel. The NMR spectrum was consistent with the proposed structure.

reactant | 4-ethyl-2-(2-methoxyethoxy)benzaldehyde | 0.036 mole, 7.5 grams | C(C)C1=CC(=C(C=O)C=C1)OCCOC | C12H16O3
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-ethyl-2-(2-methoxyethoxy)phenylmethanol | C(C)C1=CC(=C(C=C1)CO)OCCOC | C12H18O3
